US04001433
m-Methoxybenzyl chloride (25 g.) was added slowly to a hot stirred solution of methylaminoethanol (31 g.) in benzene (63 ml.). After heating on a steam-bath for 1 hour, the resulting mixture was cooled and treated with 5N-sodium hydroxide (50 ml.). The aqueous layer was separated and extracted with ether (100 ml.). The combined organic layers were washed with water, dried over anhydrous potassium carbonate, filtered and evaporated. The residue was distilled in vacuo to give N-2-hydroxyethyl-N-m-methoxybenzyl-N-methylamine as a colourless oil, b.p. 116°-118°/0.2 mm.

reactant | m-Methoxybenzyl chloride | 25 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | methylaminoethanol | 31 g | CNC(C)O | C3H9NO
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | benzene | 63 ml | C1=CC=CC=C1 | C6H6
product | N-2-hydroxyethyl-N-m-methoxybenzyl-N-methylamine | OCCN(C)CC1=CC(=CC=C1)OC | C11H17NO2
